US09376418B2
A mixture of N-(3-bromo-5-methylphenyl)-4-methoxypyrimidin-2-amine (125 mg, 0.425 mmol), 2-aminopyridine-4-boronic acid (103 mg, 0.467 mmol), PdCl2(dppf)-CH2Cl2 adduct (35 mg, 0.042 mmol) and sodium carbonate (425 μL, 0.850 mmol) in dioxane (3 mL) was heated to 100° C. for 14 hours. The reaction mixture was filtered through a CELITE pad and washed with dioxane (3×). The filtrate was concentrated under reduced pressure and the residue was purified by silica gel chromatography (methanol/ethyl acetate) to give N-[3-(2-aminopyridin-4-yl)-5-methylphenyl]-4-methoxypyrimidin-2-amine as a tan solid. MS ESI calc'd for C17H18N5O [M+H]+ 308. found 308. 1H NMR (500 MHz, DMSO-d6) δ 9.59 (s, 1H), 8.20 (d, J=5.7 Hz, 1H), 7.95-7.88 (m, 2H), 7.61 (s, 1H), 7.00 (s, 1H), 6.69 (d, J=5.4 Hz, 1H), 6.64 (s, 1H), 6.28 (d, J=5.6 Hz, 1H), 5.95 (s, 2H), 3.92 (s, 3H), 2.32 (s, 3H).

reactant | N-(3-bromo-5-methylphenyl)-4-methoxypyrimidin-2-amine | 0.425 mmol, 125 mg | BrC=1C=C(C=C(C1)C)NC1=NC=CC(=N1)OC | C12H12BrN3O
reactant | 2-aminopyridine-4-boronic acid | 0.467 mmol, 103 mg | NC1=NC=CC(=C1)B(O)O | C5H7BN2O2
reactant | sodium carbonate | 0.850 mmol, 425 μL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.042 mmol, 35 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | N-[3-(2-aminopyridin-4-yl)-5-methylphenyl]-4-methoxypyrimidin-2-amine | NC1=NC=CC(=C1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)OC | C17H17N5O
